US05366993
3-(4-cyclohexyl-1-oxobutyl)-4-hydroxy-2(5H)-furanone
To a solution of 1.0 g (10.0 mmol) of tetronic acid in 30 mL of dry N,N-dimethylformamide at 0° C. is added 1.5 mL (11 mmol) of triethylamine followed by 0.37 g (30 mmol) of 4 dimethylaminopyridine. After stirring at 0° C. for 5 minutes, 2.0 g (11.7 mmol) of 4-cyclohexyl butyric acid is added, followed by 2.25 g (11.7 mmol) of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide. After 10 minutes, the ice bath is removed and the reaction mixture is allowed to stir overnight. The reaction mixture is quenched with 1N HCl and the solution is washed three times with hexanes. The combined organic layers are washed with water, dried over magnesium sulfate and evaporated. The residue is flash chromatographed on silica gel using 5% methanol/ethyl acetate with 2 mL of acetic acid/liter to give an orange solid: m.p. 38°-42° C.; IR (film) 2920, 2840, 1770, 1690, 1660, 1600 cm-1; NMR (CDCl3) δ5 0.9 (m, H), 1.2 (m, 6H), 1.7 (m, 6H), 2.9 (q, J=7 Hz, 2H), 4.6 and 4.7 (s, 2H), 12.1 (bs, H); MS (EI): M+252. Anal. Calc'd. for C14H20O4 : C, 66.64; H, 7.99 Found: C, 66.38; H, 7.90

reactant | tetronic acid | 10.0 mmol, 1.0 g | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-cyclohexyl butyric acid | 11.7 mmol, 2.0 g | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide | 11.7 mmol, 2.25 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(4-cyclohexyl-1-oxobutyl)-4-hydroxy-2(5H)-furanone | C1(CCCCC1)CCCC(=O)C=1C(OCC1O)=O | C14H20O4
